US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinoline-4-thiol
To a solution of 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (1.5 g, 4 mmol, prepared in analogy to the one in Example 17-1) in dry N,N-dimethylformamide (100 mL) was added sodium methanethiolate (1.4 g, 20 mmol) under argon protection. The reaction was stirred at 130° C. for 16 hours. The reaction mixture was cooled to 50° C. and concentrated in vacuo. The residue was dissolved in cooled water (150 mL) and carefully acidified with 20% of hydrochloric acid to pH 4˜5 under argon atmosphere. The resultant solution was extracted with cooled dichloromethane (150 mL×3). The combined organic layer was washed with cooled brine (100 mL×2) and concentrated in vacuo at room temperature to afford the crude product, which was used for next step without further purification.

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | sodium methanethiolate | 20 mmol, 1.4 g | C[S-].[Na+]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinoline-4-thiol | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)S)C)=O | C19H18N2O2S2
